US06436441B1
Barnidipine hydrochloride, TC-5E and HCO-40 were dissolved in water-methanol (1:9). Separately, PEG20000 and POLYOX303 were mixed. Using a fluidized-bed granulator, the latter mixture was sprayed with the above solution. The granules thus prepared were dried, and after addition of lubricant, the composition was compression-molded to provide tablets each measuring 9.0 mm in diameter and 300 mg (barnidipine HCl content: 15 mg).

reactant | Barnidipine hydrochloride | CC1=C([C@@H](C(=C(N1)C)C(=O)O[C@H]2CCN(C2)CC3=CC=CC=C3)C4=CC(=CC=C4)[N+](=O)[O-])C(=O)OC.Cl
solvent | water methanol | O.CO
product | barnidipine HCl | CC1=C([C@@H](C(=C(N1)C)C(=O)O[C@H]2CCN(C2)CC=3C=CC=CC3)C=4C=CC=C(C4)[N+](=O)[O-])C(=O)OC | C27H29N3O6
